US07605289B2
A mixture of 4-(3-pyridyl)cyclohex-3-en-1-one ethylene ketal prepared above (26 g, 120.0 mmol) in EtOAc (240 mL), containing 10% Pd/C (3.9 g), was hydrogenated under atmospheric pressure for 24 h. At this time, an additional 1.3 g of 10% Pd/C was added and the mixture allowed to stir an additional 2.5 d under an atmosphere of hydrogen gas. The reaction mixture was filtered through a pad of celite and concentrated in vacuo to afford crude 4-(3-pyridyl)cyclohexanone ethylene ketal, which was used without further purification.

reactant | 4-(3-pyridyl)cyclohex-3-en-1-one ethylene ketal | C1COC2(CC=C(CC2)C=2C=NC=CC2)O1 | C13H15NO2
solvent | EtOAc | 240 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 3.9 g | [Pd] | Pd
catalyst | Pd/C | 1.3 g | [Pd] | Pd
product | 4-(3-pyridyl)cyclohexanone ethylene ketal | C1COC2(CCC(CC2)C=2C=NC=CC2)O1 | C13H17NO2
